US08076336B2
1-[3-Amino-5-(pentafluorosulfanyl)phenyl]ethanone
N-(3-Acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide (O3.075; 9.4 g) was admixed with semiconcentrated sulfuric acid (200 ml), and DCM (15 ml) was added. After stirring at 100° C. for 7 h, the mixture was left to stand overnight. Then the mixture was added to ice-water and extracted with EA. The combined EA phases were washed with saturated sodium hydrogencarbonate solution, dried over magnesium sulfate, filtered and concentrated by rotary evaporation. 6.36 g of the title compound were obtained. LC-MS rt: 1.38 min [M+H]+: 262.0 (met. a)

reactant | N-(3-Acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide | 9.4 g | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O | C10H7F8NO2S
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-Amino-5-(pentafluorosulfanyl)phenyl]ethanone | 6.36 g | NC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C8H8F5NOS
